US06835731B2
Preparation of Pyridine-2-sulfonic Acid 4-hydroxymethyl-benzylamide:
Using the above procedure J: Reaction of (4-aminomethyl-phenyl)-methanol (255 mg, 1.86 mmol, N,N-diisopropylethylamine (294 μL, 1.69 mmol), and pyridine-2-sulfonyl chloride (300 mg, 1.69 mmol) for 10 minutes at room temperature gave the title compound (400 mg, 85%) white solid. 1H NMR (300 MHz, CDCl3) δ 4.26 (br s, 2H), 4.66 (br s, 2H), 5.28 (br s, 1H), 7.23-7.30 (m, 4H), 7.49-7.51 (m, 1H), 7.90-7.92 (m, 1H), 7.99 (d, 1H, J=4.8 Hz), 8.68 (d, 1H, J=4.5 Hz).

reactant | (4-aminomethyl-phenyl)-methanol | NCC1=CC=C(C=C1)CO | C8H11NO
reactant | N,N-diisopropylethylamine | 1.69 mmol, 294 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyridine-2-sulfonyl chloride | 1.69 mmol, 300 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | Pyridine-2-sulfonic Acid 4-hydroxymethyl-benzylamide | 400 mg, 85% | OCC1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C13H14N2O3S
